US06514971B1
A solution of 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline (242 mg, 0.5 mmol) in a mixture of methanol (9 ml) and DMF (10.5 ml) containing 10% palladium-on-charcoal catalyst (100 mg) was stirred under hydrogen at 5 atmospheres pressure for 9 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was washed with methanol and ether and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline as a white solid (87 mg, 44%).

reactant | 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline | 0.5 mmol, 242 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(OC2=CN=NC3=CC(=C(C=C23)OC)OCCOC)C1)F)C | C26H25FN2O5
solvent | methanol | 9 ml | CO | CH4O
solvent | DMF | 10.5 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 4-(2-fluoro-5-hydroxy-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline | 87 mg, 44% | FC1=C(OC2=CN=NC3=CC(=C(C=C23)OC)OCCOC)C=C(C(=C1)C)O | C19H19FN2O5
